*******************************************************
* For SON Bug 744
*
* Test of what non-alphanumeric characters are legal in 
* a Xyce node or device name.  This includes the
* following characters, in top-level circuits and
* in subcircuits:
*
* ` ~ ! @ # $ % ^ & - _ + [ ] | \ < > . ? /
*
* This also tests that these characters work in a
* a .DC statement and .PRINT DC statement.
*
* Note: * and 1* are allowed as node names, but those
* usages can cause problems since .PRINT DC V(*) V(1*) V(X1:1*)
* have the special meanings in Xyce of:
*
*   a) print all nodal voltages in the netlist
*   b) print all nodal voltages that start with '1'
*   c) print all nodal voltages that start with "X1:1"
*
* The character * can be used in a device name, but the
* same caveats for I(), P() and W() operators on a .PRINT
* line apply and are tested by SON Bug 1211.
*
*******************************************************
.print DC WIDTH=6 PRECISION=1 v(1) v(1`) v(1~) v(1!) v(1@) 
+ v(1#) v(1$) v(1%) v(1^) v(1&) v(1-) v(1_) v(1+) v(1[) 
+ v(1]) v(1|) v(1\) v(1<) v(1>) v(1.) v(1?) v(1/) 
+ v(`) v(~) v(!) v(@) v(#) v($) v(%) v(^) v(&) 
*+v(*) 
+ v(-) v(_) 
+ v(+) v([) v(]) v(|) v(\) v(<) v(>) v(.) v(?) v(/) 
+ v(X1:1`) v(X1:1~) v(X1:1!) v(X1:1@) 
+ v(X1:1#) v(X1:1$) v(X1:1%) v(X1:1^) v(X1:1&) v(X1:1-)
+ v(X1:1_) v(X1:1+) v(X1:1[) v(X1:1]) v(X1:1|) v(X1:1\) v(X1:1<) 
+ v(X1:1>) v(X1:1.) v(X1:1?) v(X1:1/) 
+ v(X1:`) v(X1:~) v(X1:!) v(X1:@) v(X1:#) v(X1:$) v(X1:%) v(X1:^)
+ v(X1:&) v(X1:-) v(X1:_) v(X1:+) v(X1:[) v(X1:]) v(X1:|) v(X1:\) 
+ v(X1:<) v(X1:>) v(X1:.) v(X1:?) v(X1:/) 

.DC v1 1 1 1
v1 1 0 1
r1 1 0 1
v2 2 0 1
r2 2 0 1
X1 2 0 sub1

* test in .DC statements
.DC v1` 1 1 1
.DC v1~ 1 1 1 
.DC V1! 1 1 1
.DC v1@ 1 1 1
.DC v1# 1 1 1
.DC v1$ 1 1 1
.DC v1% 1 1 1
.DC v1^ 1 1 1
.DC v1& 1 1 1
.DC v1* 1 1 1
.DC v1- 1 1 1
.DC v1_ 1 1 1
.DC v1+ 1 1 1
.DC v1[ 1 1 1
.DC v1] 1 1 1
.DC v1| 1 1 1
.DC v1\ 1 1 1
.DC v1< 1 1 1
.DC v1> 1 1 1
.DC v1. 1 1 1
.DC v1? 1 1 1
.DC v1/ 1 1 1

.DC v` 1 1 1
.DC v~ 1 1 1
.DC v! 1 1 1
.DC v@ 1 1 1
.DC v# 1 1 1
.DC v$ 1 1 1
.DC v% 1 1 1
.DC v^ 1 1 1
.DC v& 1 1 1
.DC v* 1 1 1
.DC v- 1 1 1
.DC v_ 1 1 1
.DC v+ 1 1 1
.DC v[ 1 1 1
.DC v] 1 1 1
.DC v| 1 1 1
.DC v\ 1 1 1
.DC v< 1 1 1
.DC v> 1 1 1
.DC v. 1 1 1
.DC v? 1 1 1
.DC v/ 1 1 1

* test 1 followed by the special character
v1` 1` 0 1
v1~ 1~ 0 1
v1! 1! 0 1
v1@ 1@ 0 1
v1# 1# 0 1
v1$ 1$ 0 1
v1% 1% 0 1
v1^ 1^ 0 1
v1& 1& 0 1
v1* 1* 0 1
v1- 1- 0 1
v1_ 1_ 0 1
v1+ 1+ 0 1
v1[ 1[ 0 1
v1] 1] 0 1
v1| 1| 0 1
v1\ 1\ 0 1
v1< 1< 0 1
v1> 1> 0 1
v1. 1. 0 1
v1? 1? 0 1
v1/ 1/ 0 1

* test with just the special character
v` ` 0 1
v~ ~ 0 1
v! ! 0 1
v@ @ 0 1
v# # 0 1
v$ $ 0 1
v% % 0 1
v^ ^ 0 1
v& & 0 1
v* * 0 1
v- - 0 1
v_ _ 0 1
v+ + 0 1
v[ [ 0 1
v] ] 0 1
v| | 0 1
v\ \ 0 1
v< < 0 1
v> > 0 1
v. . 0 1
v? ? 0 1
v/ / 0 1

* repeat all tests, but in a subcircuit
.SUBCKT sub1 a b
R1 a b 1
v1` 1` 0 1
v1~ 1~ 0 1
v1! 1! 0 1
v1@ 1@ 0 1
v1# 1# 0 1
v1$ 1$ 0 1
v1% 1% 0 1
v1^ 1^ 0 1
v1& 1& 0 1
v1* 1* 0 1
v1- 1- 0 1
v1_ 1_ 0 1
v1+ 1+ 0 1
v1[ 1[ 0 1
v1] 1] 0 1
v1| 1| 0 1
v1\ 1\ 0 1
v1< 1< 0 1
v1> 1> 0 1
v1. 1. 0 1
v1? 1? 0 1
v1/ 1/ 0 1

v` ` 0 1
v~ ~ 0 1
v! ! 0 1
v@ @ 0 1
v# # 0 1
v$ $ 0 1
v% % 0 1
v^ ^ 0 1
v& & 0 1
v* * 0 1
v- - 0 1
v_ _ 0 1
v+ + 0 1
v[ [ 0 1
v] ] 0 1
v| | 0 1
v\ \ 0 1
v< < 0 1
v> > 0 1
v. . 0 1
v? ? 0 1
v/ / 0 1
.ENDS

.end
